US07176306B2
N-[2,4-Dibromo-6-methylpyridin-3-yl]-2-bromoacetamide (1.4 g, 37.3 mmol) was dissolved in acetonitrile (60 mL). 1-(2-Hydroxyethyl)piperazine (0.58 g, 4.48 mmol) was added to the solution with stirring and cooling with ice, and then potassium carbonate (37.5 g, 0.271 mol) was added thereto. The temperature of the mixture was elevated to room temperature, and the mixture was stirred for 24 hours. After completion of reaction, the solvent was removed under reduced pressure. Chloroform and water was added to the residue, and the organic layer was collected from the mixture. The aqueous layer was further extracted with chloroform and the two organic layers were combined together. The combined organic layer was washed with saturated brine, dried over sodium sulfate anhydrate, and concentrated under reduced pressure. The residue was purified through silica gel column chromatography (developer: ammonia-saturated methanol/chloroform=1/20), to thereby obtain 1.613 g of N-[2,4-dibromo-6-methylpyridin-3-yl]-2-[4-(2-hydroxyethyl)piperazin-1-yl]acetamide as an amorphous (yield: 99%).

reactant | N-[2,4-Dibromo-6-methylpyridin-3-yl]-2-bromoacetamide | 37.3 mmol, 1.4 g | BrC1=NC(=CC(=C1NC(CBr)=O)Br)C | C8H7Br3N2O
reactant | 1-(2-Hydroxyethyl)piperazine | 4.48 mmol, 0.58 g | OCCN1CCNCC1 | C6H14N2O
reactant | potassium carbonate | 0.271 mol, 37.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | N-[2,4-dibromo-6-methylpyridin-3-yl]-2-[4-(2-hydroxyethyl)piperazin-1-yl]acetamide | 1.613 g, yield: 99% | BrC1=NC(=CC(=C1NC(CN1CCN(CC1)CCO)=O)Br)C | C14H20Br2N4O2
